* C:\users\chesito\Mis Documentos\Documentos\potencia\lab1\diodo_conmutacion.asc
V1 vi 0 SINE(0 9 60)
R1 vo 0 1k
D1 vi vo 1N4004
.model D D
.lib C:\users\chesito\Mis Documentos\LTspiceXVII\lib\cmp\standard.dio
.tran 0 0.2 0 0.01
.backanno
.end
